US07732604B2
A mixture of 6-((6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline (50 mg, 0.15 mmol), 4-methyl-1H-imidazole (36 mg, 0.44 mmol) and CsF (25 mg, 0.16 mmol) in acetonitrile (1.45 mL) was heated in a microwave to 160° C. for 20 minutes. The reaction was diluted with water (5 mL) and the resulting suspension was filtered. The precipitate was washed with water and then purified by column chromatography using gradient elution with methanol and dichloromethane to afford 6-((6-(4-methyl-1H-imidazol-1-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline (28 mg, yield 56%)

reactant | 6-((6-bromo-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline | 0.15 mmol, 50 mg | BrC1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C14H9BrN6
reactant | 4-methyl-1H-imidazole | 0.44 mmol, 36 mg | CC=1N=CNC1 | C4H6N2
reactant | CsF | 0.16 mmol, 25 mg | [F-].[Cs+]
solvent | acetonitrile | 1.45 mL | C(C)#N | C2H3N
solvent | water | 5 mL | O | H2O
product | 6-((6-(4-methyl-1H-imidazol-1-yl)-1H-[1,2,3]triazolo[4,5-b]pyrazin-1-yl)methyl)quinoline | 28 mg, yield 56% | CC=1N=CN(C1)C1=CN=C2C(=N1)N(N=N2)CC=2C=C1C=CC=NC1=CC2 | C18H14N8
